US06583089B1
At room temperature, 23.2 g (0.192 mol) of allyl bromide were added dropwise to a mixture of 21.0 g (0.375 mol) of potassium hydroxide and 20.2 g (0.096 mol) of methyl 2-hydroxy-3-formyl-4-methoxybenzoate in 500 ml of dimethyl sulfoxide, and the mixture was stirred at room temperature for 4 hours. The mixture was subsequently added to 1.5 l of 3% strength aqueous hydrochloric acid with stirring and extracted with ethyl acetate. The combined organic phases were washed with water and dried, and the solvent was removed. Chromatography over silica gel using cyclohexane/ethyl acetate=1:2 gave 7.7 g (36% of methyl 2-allyloxy-3-formyl-4-methoxybenzoate in the form of a yellowish oil.

reactant | allyl bromide | 0.192 mol, 23.2 g | C(C=C)Br | C3H5Br
reactant | potassium hydroxide | 0.375 mol, 21.0 g | [OH-].[K+]
reactant | methyl 2-hydroxy-3-formyl-4-methoxybenzoate | 0.096 mol, 20.2 g | OC1=C(C(=O)OC)C=CC(=C1C=O)OC | C10H10O5
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
product | methyl 2-allyloxy-3-formyl-4-methoxybenzoate | 36% | C(C=C)OC1=C(C(=O)OC)C=CC(=C1C=O)OC | C13H14O5
